US05998459
2-Amino-3-carbamoyl-4-methyl-5-phenylpyrrole (compound No. 76)
To a solution (20 ml) of carbamoylacetamidine (5.1 g) in ethanol was added a solution of 2-bromopropiophenone (4.0 g) in ethanol dropwise thereto under ice-cooling with stirring and the mixture was then stirred at room temperature overnight. The insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. The obtained product was washed with benzene, purified by silica gel column chromatography (Wakogel C-200, 200 g; eluent: 50% ethyl acetate/n-hexane), and recrystallized from ethyl acetate/diethyl ether to provide the title compound as colorless crystals (0.2 g). m.p. 195-197° C.

reactant | carbamoylacetamidine | 20 ml, 5.1 g | C(N)(=O)CC(=N)N | C3H7N3O
reactant | 2-bromopropiophenone | 4.0 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-carbamoyl-4-methyl-5-phenylpyrrole | 0.2 g | NC=1NC(=C(C1C(N)=O)C)C1=CC=CC=C1 | C12H13N3O
